US08895588B2
5-[(3-bromophenyl)sulfonyl]-1-(2-fluoropyridin-3-yl)-1H-pyrazole-3-carbaldehyde
{5-[(3-Bromophenyl)sulfonyl]-1-(2-fluoropyridin-3-yl)-1H-pyrazol-3-yl}methanol (371 mg) was dissolved in toluene (5 mL), manganese dioxide (626 mg) was added and the mixture was stirred at 90° C. for 5 hr. The reaction mixture was allowed to cool to room temperature, and filtered through celite. The filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent:hexane-ethyl acetate=19:1→3:1) to give the title compound as a colorless solid (yield 280 mg, yield 76%).

reactant | {5-[(3-Bromophenyl)sulfonyl]-1-(2-fluoropyridin-3-yl)-1H-pyrazol-3-yl}methanol | 371 mg | BrC=1C=C(C=CC1)S(=O)(=O)C1=CC(=NN1C=1C(=NC=CC1)F)CO | C15H11BrFN3O3S
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | manganese dioxide | 626 mg | [O-2].[O-2].[Mn+4]
product | 5-[(3-bromophenyl)sulfonyl]-1-(2-fluoropyridin-3-yl)-1H-pyrazole-3-carbaldehyde | yield 280 mg, yield 76% | BrC=1C=C(C=CC1)S(=O)(=O)C1=CC(=NN1C=1C(=NC=CC1)F)C=O | C15H9BrFN3O3S
